US08440662B2
Step 2: 4-(3-(4-bromo-3-fluorophenyl)ureido)-N,N-dimethyl-benzamide
To a 250 mL round bottom flask, 2,2,2-trichloroethyl(4-(dimethylcarbamoyl)phenyl)carbamate (30 g, 0.0885 mol), 4-bromo-3-fluoroaniline (20 g, 0.1062 mol), TEA (24.6 mL, 0.177 mol) and toluene (150 mL) was added. The reaction mixture was maintained at 110° C. for 12 h. The reaction mass was cooled to room temperature. The obtained precipitate was collected by filtration and dried under vacuum to get the desired product [15 g, 50%]. 1H NMR (300 MHz, DMSO-d6): δ 9.09 (s, 1H), 8.99 (s, 1H), 7.65-7.53 (m, 2H), 7.49 (d, J=8.4 Hz, 2H), 7.35 (d, J=8.4 Hz, 2H), 7.14 (d, J=8.4 Hz, 1H), 2.93 (s, 6H); LC-MS (ESI): Calculated mass: 379.0; Observed mass: 382.1 (RT: 1.43 min).

reactant | 2,2,2-trichloroethyl(4-(dimethylcarbamoyl)phenyl)carbamate | 0.0885 mol, 30 g | ClC(COC(NC1=CC=C(C=C1)C(N(C)C)=O)=O)(Cl)Cl | C12H13Cl3N2O3
reactant | 4-bromo-3-fluoroaniline | 0.1062 mol, 20 g | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-(4-bromo-3-fluorophenyl)ureido)-N,N-dimethyl-benzamide | 15 g, 50% | BrC1=C(C=C(C=C1)NC(NC1=CC=C(C(=O)N(C)C)C=C1)=O)F | C16H15BrFN3O2
